### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Module): add `Submodule.ClosedComplemented.of_finiteDimensional_of_le`

### PR DESCRIPTION
**Pull request by JonBannon**
Submodules of finite-dimensional closed, complemented submodules are closed and complemented.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 1]
```diff
@@ -740,6 +740,22 @@ theorem Submodule.ClosedComplemented.of_finiteDimensional_quotient {p : Submodul
 alias Submodule.ClosedComplemented.of_quotient_finiteDimensional :=
   Submodule.ClosedComplemented.of_finiteDimensional_quotient
 
+lemma Submodule.ClosedComplemented.of_closedComplement_finiteDimensional
+    (A B : Submodule 𝕜 E) (hA : FiniteDimensional 𝕜 A) (hA1 : A.ClosedComplemented) [T2Space A]
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: why is FiniteDimensional explicit here `()`?
```suggestion
    (A B : Submodule 𝕜 E) [FiniteDimensional 𝕜 A] (hA1 : A.ClosedComplemented) [T2Space A]
```

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 2]
```diff
@@ -740,6 +740,22 @@ theorem Submodule.ClosedComplemented.of_finiteDimensional_quotient {p : Submodul
...
+  let f :=  ((projectionOnto B q hq).domRestrict A).toContinuousLinearMap
+  use f.comp p
+  intro x
+  let x' : A := ⟨x, hB x.2⟩
+  calc
+    f.comp p x = f (p x) := rfl
+    _          = f (p x') := rfl
+    _          = f x' := by rw [hp]
+    _          = projectionOnto B q hq x := rfl
+    _          = x := projectionOnto_apply_left _ x
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]:
```suggestion
  refine ⟨((projectionOnto B q hq).domRestrict A).toContinuousLinearMap ∘SL p, fun x ↦ ?_⟩
  simp [hp ⟨x, hB x.2⟩]
```

Comment (JonBannon) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: Gorgeous!

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: For now I agree with you. But eventually all these "this submodule is finite dimensional" assumptions should be replaced by `Submodule.FG`, because you cannot rewrite an equality of submodules in `FiniteDimensional`.

Comment (JonBannon) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: No need at all.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 3]
```diff
@@ -740,6 +740,14 @@ theorem Submodule.ClosedComplemented.of_finiteDimensional_quotient {p : Submodul
 alias Submodule.ClosedComplemented.of_quotient_finiteDimensional :=
   Submodule.ClosedComplemented.of_finiteDimensional_quotient
 
+lemma Submodule.ClosedComplemented.of_closedComplement_finiteDimensional
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: how about `of_finiteDimensional_of_le`?
```suggestion
lemma Submodule.ClosedComplemented.of_finiteDimensional_of_le
```

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 4]
```diff
@@ -740,6 +740,14 @@ theorem Submodule.ClosedComplemented.of_finiteDimensional_quotient {p : Submodul
...
+    (A B : Submodule 𝕜 E) [FiniteDimensional 𝕜 A] (hA1 : A.ClosedComplemented) [T2Space A]
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]:
```suggestion
    {A B : Submodule 𝕜 E} [FiniteDimensional 𝕜 A] (hA : A.ClosedComplemented) [T2Space A]
```

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 5]
```diff
@@ -740,6 +740,14 @@ theorem Submodule.ClosedComplemented.of_finiteDimensional_quotient {p : Submodul
...
+    (hB : B ≤ A) : B.ClosedComplemented := by
+  obtain ⟨p, hp⟩ := hA1
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]:
```suggestion
  obtain ⟨p, hp⟩ := hA
```

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 6]
```diff
@@ -740,6 +740,14 @@ theorem Submodule.ClosedComplemented.of_finiteDimensional_quotient {p : Submodul
...
+  obtain ⟨q, hq⟩ := B.exists_isCompl
+  refine ⟨((projectionOnto B q hq).domRestrict A).toContinuousLinearMap ∘SL p, fun x ↦ ?_⟩
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: how about `C` instead of `q` since `p` is an operator and `A,B` are submodules?

```suggestion
  obtain ⟨C, hBC⟩ := B.exists_isCompl
  refine ⟨((projectionOnto B C hBC).domRestrict A).toContinuousLinearMap ∘SL p, fun x ↦ ?_⟩
```

**Review by themathqueen — APPROVED** [review]
Looks good! Thanks! Hope y'all are having fun at the conference!

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 4 above)
Comment (JonBannon) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: Wish you were here!!!

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 7]
```diff
@@ -740,6 +740,14 @@ theorem Submodule.ClosedComplemented.of_finiteDimensional_quotient {p : Submodul
 alias Submodule.ClosedComplemented.of_quotient_finiteDimensional :=
   Submodule.ClosedComplemented.of_finiteDimensional_quotient
 
+lemma Submodule.ClosedComplemented.of_finiteDimensional_of_le
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: Oh wait, I think I meant `closedComplemented_of_finiteDimensional_of_le`
```suggestion
lemma Submodule.ClosedComplemented.closedComplemented_of_finiteDimensional_of_le
```

Comment (JonBannon) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: Sounds good!

**Comment by ADedecker** [comment]
Thanks Monica for the review! We had a lot of fun indeed :slightly_smiling_face: 

bors merge

**Comment by ADedecker** [comment]
bors r-

Actually I think I preferred the `ClosedComplemented.of_finiteDimensional_of_le` name, analogous to [Submodule.FG.of_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Noetherian/Basic.html#Submodule.FG.of_le).

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 8]
```diff
@@ -740,6 +740,14 @@ theorem Submodule.ClosedComplemented.of_finiteDimensional_quotient {p : Submodul
 alias Submodule.ClosedComplemented.of_quotient_finiteDimensional :=
   Submodule.ClosedComplemented.of_finiteDimensional_quotient
 
+lemma Submodule.ClosedComplemented.closedComplemented_of_finiteDimensional_of_le
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: As per Anatole's comment, let's revert this to the previous name, sorry 😅
```suggestion
lemma Submodule.ClosedComplemented.of_finiteDimensional_of_le
```

**Comment by j-loreaux** [comment]
Thanks!

bors merge
